US07652051B2
Synthesis of 4-[5-(4-trifluoromethoxy-phenylamino)-4H[1,2,4]triazol-3-yl]-phenol
4-hydroxybenzoic acid hydrazide (0.643 g, 4.23 mmol) and S-methyl N-[4-(trifluoromethoxy)phenyl]isothiourea hydroiodide (1.6 g, 4.23 mmol) were suspended in 10 mL of anhydrous pyridine. The reaction mixture was refluxed for 24 hours, during which time it changed color from yellow into orange-red. Then it was cooled down to ambient temperature and poured with stirring into 150 mL of ice-water. The formed white solid was collected, washed thoroughly with water and dried in air. The resulting residue was purified by silica gel chromatography using Isco column with 10% to 100% gradient of ethyl acetate in hexane. Solvent was removed in vacuo to give the title product as a pinkish solid (575.2 mg). Yield 40.4

reactant | 4-hydroxybenzoic acid hydrazide | 4.23 mmol, 0.643 g | OC1=CC=C(C(=O)NN)C=C1 | C7H8N2O2
reactant | S-methyl N-[4-(trifluoromethoxy)phenyl]isothiourea hydroiodide | 4.23 mmol, 1.6 g | I.CSC(NC1=CC=C(C=C1)OC(F)(F)F)=N
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 4-[5-(4-trifluoromethoxy-phenylamino)-4H[1,2,4]triazol-3-yl]-phenol | 575.2 mg | FC(OC1=CC=C(C=C1)NC=1NC(=NN1)C1=CC=C(C=C1)O)(F)F | C15H11F3N4O2
